US09404131B2
(NOTE: Ingenol purity was calculated as 84.18% by quantitative 1H NMR. As ingenol-3-angelate, PEP015, PEP025 and ingenol-3,20-diangelate were provided as solutions in DMSO, purity was not calculated but assumed to be 100%).

reactant | Ingenol | C[C@@H]1C[C@@H]2[C@@H](C2(C)C)[C@@H]3C=C([C@H]([C@]4([C@@]1(C3=O)C=C([C@@H]4O)C)O)O)CO | C20H28O5
solvent | DMSO | CS(=O)C | C2H6OS
product | ingenol-3-angelate | C/C=C(/C)\C(=O)O[C@H]1C(=C[C@@]23[C@@]1([C@@H](C(=C[C@H](C2=O)[C@H]4[C@H](C4(C)C)C[C@H]3C)CO)O)O)C | C25H34O6
